US05747000
a) 10-(2-Hydroxy-3-methoxy-propyl)-1,4,7-tris-carboxymethyl-1,4,7,10-tetraazacyclododecane
7.63 g (86.58 mmol) of glycidyl methyl ether and 10 g (28.86 mmol) of 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane are dissolved in a mixture of 50 ml of dioxane/80 ml of water, and the pH is brought to 10 with 6 N potassium hydroxide solution. It is stirred for 24 hours at 50° C. It is evaporated to dryness, the residue is taken up with 300 ml of water/50 ml of methanol and extracted twice with 100 ml of tert-butyl methyl ether. The aqueous solution is adjusted to pH 1 with 5 N hydrochloric acid and evaporated to dryness. The residue is boiled out (extracted) with 200 ml of methanol/80 ml of methylene chloride. It is cooled in an ice bath and precipitated potassium chloride is filtered out. The filtrate is concentrated by evaporation in a vacuum, the residue is dissolved in 45 ml of water/20 ml of ethanol and then put on a column of poly-(4-vinylpyridine). The product is eluted with a solution of ethanol/water 1:3. After concentration by evaporation in a vacuum, the residue is chromatographed on a reversed-phase column (RP 18/mobile solvent =gradient of water/tetrahydrofuran). After concentration by evaporation of the main fraction, 10.38 g (77% of theory) of a greatly hygroscopic, vitreous solid is obtained.

reactant | glycidyl methyl ether | 86.58 mmol, 7.63 g | COCC1CO1 | C4H8O2
reactant | 1,4,7-triscarboxymethyl-1,4,7,10-tetraazacyclododecane | 28.86 mmol, 10 g | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | potassium hydroxide | 6 N | [OH-].[K+]
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | 10-(2-Hydroxy-3-methoxy-propyl)-1,4,7-tris-carboxymethyl-1,4,7,10-tetraazacyclododecane | OC(CN1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O)COC | C18H34N4O8
